Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right sided weakness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old left-handed woman with h/o HTN,
chronic back pain and sciatica who presents after a fall today.

She was woke up yesterday morning feeling "off".  She felt that
her right arm was heavy.  As she got out of bed and walked, she
felt that she was "stumbling" with her right leg dragging.  She
went to the bathroom.  Her face didnt look any different to her. 

She got into shower and showered without issue.  She got back to
her room and put makeup on. Her face still looked normal.  After
that she went to the ___ and did yoga and line 
dancing.
People didnt say she looked different but asked "why are you
limping?"  She also had a mild headache (right sided throbbing
HA) that is her usual headache.  She endorses some dyarthria
(says her voice was "dragging").

She took it easy the rest of the day and was hoping that her
symptoms would go away.  This morning, she woke up and noticed
that she still felt heavy on the right side.  She went to take
her morning shower and had to use her arms to lift her right leg
up in order to step into the shower.  When she was walking
upstairs, her right leg got caught and she fell.  After the 
fall,
she called her PCP who asked her to come to the ED.  She called
___ and was brought here.  There was no language difficulty when
she was on the phone.

In the ED, Neurology was consulted for the above symptom.

On neuro ROS, she endorses lightheadedness, dysarthria, right
sided "heavyness" and weakness. the pt denies loss of vision,
blurred vision, diplopia, dysphagia, vertigo, tinnitus or 
hearing
difficulty. Denies difficulties producing or comprehending
speech.  

On general review of systems, the pt denies recent fever or
illness.

 
Past Medical History:
Lupus
HTN
 
Social History:
___
Family History:
Father had a stroke in his ___

 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.1 82 171/82 20 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR
Abdomen: soft, NT/ND
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Speech was moderately dysarthric (labial
mostly). Able to follow both midline and appendicular commands.
Pt was able to recall history. The pt had good knowledge of
current events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: Right NLF flattening with good near-full activation on
smiling
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Minor cupping of fingers 
on
the right but no pronation or drift. RAM (finger tap and wrist
turn) slower and clumsier on the right.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  4+   ___-  5  4+ ___    5  5     5     5-  5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Graphesthesia intact (struggled a little bit on both hands
initially then became accurate bilaterally).

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

**********
Laboratory Data:
143  108  16  
-------------< 111   AGap=16 
4.3  23  0.9  

estGFR: 63 / >75 (click for details)  

CK: 347  
Trop-T: <0.01 

Ca: 9.9 Mg: 1.8 P: 2.9

ALT: 65 AP: 134 Tbili: 0.3 Alb: 4.6 
AST: 45 

5.6 > 12.0 < 285 
      36.3   

___: 11.4  PTT: 30.6  INR: 1.0  

Utox neg
Stox pending
UA negative for UTI

=======================
DISCHARGE PHYSICAL EXAM
=======================
MS: alert and oriented x3, intact fluency and 
comprehension,intact naming, repetition
CN: no dysarthria, perrla, eomi, vff, no visual extinction to 
DSS visual stimuli, right lower facial droop face activates 
symmetric, intact light touch bilaterally
Motor: right arm cupping with no drift. 5- right deltoid, 
triceps, 4+ finger extensors, 4+ iliopsoas
Sensory: intact light touch and pinprick of all four 
extremities.
Reflexes: 2 biceps, patella bilaterally, toes downgoing 
bilaterally

 
Pertinent Results:
====
LABS
====
___ 11:00AM BLOOD WBC-5.6 RBC-4.14 Hgb-12.0 Hct-36.3 MCV-88 
MCH-29.0 MCHC-33.1 RDW-14.1 RDWSD-44.6 Plt ___
___ 05:10AM BLOOD WBC-4.6 RBC-3.90 Hgb-11.3 Hct-34.7 MCV-89 
MCH-29.0 MCHC-32.6 RDW-14.3 RDWSD-46.0 Plt ___
___ 06:35AM BLOOD WBC-4.7 RBC-3.92 Hgb-11.5 Hct-34.9 MCV-89 
MCH-29.3 MCHC-33.0 RDW-14.3 RDWSD-45.7 Plt ___
___ 11:00AM BLOOD Neuts-49.3 ___ Monos-9.8 Eos-9.6* 
Baso-1.4* Im ___ AbsNeut-2.76 AbsLymp-1.65 AbsMono-0.55 
AbsEos-0.54 AbsBaso-0.08
___ 05:10AM BLOOD Neuts-37.4 ___ Monos-10.6 
Eos-14.5* Baso-1.3* Im ___ AbsNeut-1.72 AbsLymp-1.65 
AbsMono-0.49 AbsEos-0.67* AbsBaso-0.06
___ 11:00AM BLOOD ___ PTT-30.6 ___
___ 11:00AM BLOOD Plt ___
___ 05:10AM BLOOD ___ PTT-31.0 ___
___ 05:10AM BLOOD Plt ___
___ 12:53PM BLOOD ___ PTT-31.7 ___
___ 06:35AM BLOOD Plt ___
___ 12:53PM BLOOD Lupus-PND
___ 11:00AM BLOOD Glucose-111* UreaN-16 Creat-0.9 Na-143 
K-4.3 Cl-108 HCO3-23 AnGap-16
___ 05:10AM BLOOD Glucose-102* UreaN-19 Creat-1.1 Na-141 
K-4.0 Cl-106 HCO3-25 AnGap-14
___ 06:35AM BLOOD Glucose-98 UreaN-23* Creat-1.0 Na-142 
K-3.6 Cl-105 HCO3-26 AnGap-15
___ 11:00AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:12PM BLOOD cTropnT-<0.01
___ 05:10AM BLOOD CK-MB-5 cTropnT-<0.01
___ 11:00AM BLOOD Albumin-4.6 Calcium-9.9 Phos-2.9 Mg-1.8 
Cholest-205*
___ 05:10AM BLOOD Albumin-4.0 Cholest-202*
___ 06:35AM BLOOD Calcium-9.8 Phos-4.2 Mg-1.9
___ 11:00AM BLOOD %HbA1c-5.8 eAG-120
___ 11:00AM BLOOD Triglyc-134 HDL-57 CHOL/HD-3.6 
LDLcalc-121
___ 05:10AM BLOOD Triglyc-204* HDL-49 CHOL/HD-4.1 
LDLcalc-112
___ 05:10AM BLOOD TSH-2.6
___ 12:53PM BLOOD CRP-1.9
___ 12:53PM BLOOD ___
___ 11:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
SED RATE    2 

=======
IMAGING
=======
CXR ___: 
No acute intrathoracic process.

CTA HEAD AND NECK ___: 
No acute intracranial pathology. The principal arteries of the 
head and neck are patent, with no evidence of dissection, 
stenosis, occlusion, or intracranial vascular malformation. No 
intracranial aneurysm greater than 3 mm is detected. 

MRI BRAIN W/O CONTRAST ___: 
Late acute infarction in the left corona radiata and posterior 
limb of the 
left internal capsule without evidence of hemorrhagic 
conversion. 
  
ECHO ___: 
EF= 64%. Normal biventricular cavity sizes with preserved 
regional/global systolic function. No ASD/PFO.
  
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of SLE and HTN 
who presented with right sided proximal weakness (leg greater 
than arm) concerning for an acute ischemic stroke. She was 
admitted to the stroke service for futher evaluation.  

NEURO: 
NCHCT showed a hypodensity in the genu and posterior limb of the 
left internal capsule. CTA showed no stenosis or significant 
atherosclerosis. MRI showed an acute ischemic stroke in the left 
corona radiata and posterior limb of the internal capsule. 
Etiology presumed to be small vessel disease. Stroke risk 
factors were assessed and found to have total cholesterol 202, 
LDL 112, A1C 5.8%. In terms of risk factor modification we have 
added ASA 81mg PO daily as well as Atorvastatin 20mg PO daily. 
She will follow with ___ Neurology and her PCP.
 
CV: 
Has known history of hypertension on home nifedipine and 
lisinopril. We have added ASA 81mg PO daily. TTE showed no 
ASD/PFO or evidence of valvular vegetations. 

RHEUM: 
Known SLE. We also assessed for inflammation with ___ (results 
to follow), CRP 1.9, cardiolipin antibodies and b2 glycoprotein 
antibody assays sent. 

METABOLIC: 
Presented initially with mildly elevated LFTs, will need 
outpatient follow up (please see results section for details).

Consults: 
She worked with physical therapy who recommended home with 
home/outpatient ___.

===================
Transitional Issues
===================
1. Home Physical therapy.
2. PCP and ___ appointment scheduled will need PCP 
___. 
3. Please follow LFTs as mildly elevated on admission.
4. Outpatient speech therapy.
 
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL =112 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO DAILY:PRN back pain/sciatica 
2. NIFEdipine CR 30 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Cyclobenzaprine 5 mg PO TID:PRN pain 
6. Gabapentin 600 mg PO QHS 
7. Methotrexate 10 mg PO QTHUR 
8. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1. Cyclobenzaprine 5 mg PO TID:PRN pain 
2. FoLIC Acid 1 mg PO DAILY 
3. Gabapentin 600 mg PO QHS 
4. Methotrexate 10 mg PO QTHUR 
5. Omeprazole 20 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
7. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
8. Ibuprofen 800 mg PO DAILY:PRN back pain/sciatica 
9. Lisinopril 40 mg PO DAILY 
10. NIFEdipine CR 30 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Acute left corona radiata and posterior limb of internal capsule 
stroke.

Secondary: 
Hypertension
Lupus
Hypercholesterolemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for weakness in your right arm and leg 
resulting from an acute ischemic stroke. You had imaging of your 
brain with CT and MRI which confirmed these findings. Stroke is 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors.  Your risk factors are Lupus and high blood pressure, 
and high cholesterol. 

You also had imaging of the blood vessels in your brain with CTA 
which showed no acute issues. We have checked an ultrasound of 
your heart which showed no clots or abnormal communication 
between its chambers. To modify your stroke risk factors you 
were started on aspirin 81mg daily and atorvastatin 20mg daily. 
You have been evaluated by physical therapy who recommended you 
continue to have physical therapy service once discharged. You 
will have follow up with your primary care doctor and 
___.

Instructions: 
Please take your other medications as prescribed. 
Please followup with Neurology and your primary care physician 
as listed below. 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms: 
- sudden partial or complete loss of vision 
- sudden loss of the ability to speak words from your mouth 
- sudden loss of the ability to understand others speaking to 
you 
- sudden weakness of one side of the body 
- sudden drooping of one side of the face 
- sudden loss of sensation of one side of the body 

Sincerely,

Your ___ Neurology Stroke Team 

 
Followup Instructions:
___